US07557103B2
D. 8-(1-Ethyl-propyl)-2,6-dimethyl-3-{2,6-dimethyl-8-(1-methylethyl)-imidazo[1,2-b]pyridazin-3-yl}imidazo[1,2-b]pyridazine
Using a procedure analogous to Example 16B, 8-(1-methylethyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.19 g, 1.01 mmol) and 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.40 g, 1.16 mmol) give the title compound (0.13 g, 0.32 mmol, 32%). 1H NMR (CDCl3): δ 0.92 (t, J=7.5 Hz, 6H), 1.43 (d, J=1.4 Hz, 3H), 1.45 (d, J=1.4 Hz, 3H), 1.80-1.93 (m, 4H), 2.43 (s, 3H), 2.44 (s, 3H), 2.47 (s, 3H), 2.48 (s, 3H), 3.36-3.44 (m, 1H), 3.74-3.82 (m, 1H), 6.69 (s, 1H), 6.75 (s, 1H) ppm. ES-MS (m/z): calcd for C24H32N6 (M+H)+: 405.6. found: 405.3.

reactant | 8-(1-methylethyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.01 mmol, 0.19 g | CC(C)C=1C=2N(N=C(C1)C)C=C(N2)C | C11H15N3
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.16 mmol, 0.40 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
product | 8-(1-Ethyl-propyl)-2,6-dimethyl-3-{2,6-dimethyl-8-(1-methylethyl)-imidazo[1,2-b]pyridazin-3-yl}imidazo[1,2-b]pyridazine | 0.32 mmol, 0.13 g, 32% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C1N2N=C(C=C1C(C)C)C)C | C24H32N6
